US07923573B2
Potassium tert-butoxide (5.40 g, 48.1 mmol) was added to an ice-cooled solution of 2-methyl-5-trifluoromethylbenzoyl chloride (10.5 g, 47.2 mmol) (manufactured by Apollo Scientific Inc.) in tetrahydrofuran (180 ml) in a small portion and the mixture was stirred for 1 hour. After the reaction mixture was poured into water and the mixture was extracted with ethyl acetate, the organic layer was successively washed with a 5% aqueous sodium hydrogencarbonate solution, water (twice) and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The residue obtained by removing the solvent under reduced pressure was purified by silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=60/1-20/1) to give tert-butyl 2-methyl-5-(trifluoromethyl)benzoate as a colorless oil (9.90 g, yield: 81%).

reactant | Potassium tert-butoxide | 48.1 mmol, 5.40 g | CC(C)([O-])C.[K+]
reactant | 2-methyl-5-trifluoromethylbenzoyl chloride | 47.2 mmol, 10.5 g | CC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C9H6ClF3O
reactant | water | O | H2O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | tert-butyl 2-methyl-5-(trifluoromethyl)benzoate | 9.90 g, yield: 81% | CC1=C(C(=O)OC(C)(C)C)C=C(C=C1)C(F)(F)F | C13H15F3O2
